US09216173B2
To a solution of benzyl (2-amino-3,3-difluoropropyl)carbamate oxalic acid salt (202 g, 605 mmol) in THF (3000 mL) were added triethylamine (153 g, 1.51 mol) and di-tert-butyl dicarbonate (264 g, 1.21 mol). After 6 hours, the reaction mixture was filtered and concentrated under reduced pressure. The residue was purified by chromatography on silica gel (50% ethyl acetate/petroleum ether) to afford benzyl tert-butyl (3,3-difluoropropane-1,2-diyl)biscarbamate.

reactant | benzyl (2-amino-3,3-difluoropropyl)carbamate oxalic acid salt | 605 mmol, 202 g | C(C(=O)O)(=O)O.NC(CNC(OCC1=CC=CC=C1)=O)C(F)F
reactant | triethylamine | 1.51 mol, 153 g | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 1.21 mol, 264 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 3000 mL | C1CCOC1 | C4H8O
product | benzyl tert-butyl (3,3-difluoropropane-1,2-diyl)biscarbamate | FC(C(CNC(OCC1=CC=CC=C1)=O)NC(OC(C)(C)C)=O)F | C16H22F2N2O4
